US06297282B1
c) 3-chloro-2-(2,4-dichlorophenylthio)-N-methyl-sulphonyl-aniline
3-chloro-2-(2,4-dichlorophenylthio)-aniline (8.96 g) is dissolved in pyridine (300 ml). Methane sulphochloride (4.56 ml) is added dropwise to this solution and the resulting mixture is stirred for 12 hours at room temperature. Following this, the mixture is emptied onto iced water, acidified with concentrated hydrochloric acid. The resulting mixture is extracted 3 times with methylene chloride (each 200 ml). The combined organic phases are dried (Na2SO4), filtered and the filtrate is concentrated in a vacuum. The resulting residue is dissolved in methanol, mixed with a sodium methylate solution in methanol (29.7%, 50 ml) and is stirred for 12 hours. The clear solution is acidified with concentrated hydrochloric acid, brought to room temperature, diluted with water (200 ml). The result in precipitate is suction filtered, washed with water and dried. Yield: 10.69 g (95.0%).

reactant | 3-chloro-2-(2,4-dichlorophenylthio)-aniline | 8.96 g | ClC=1C(=C(N)C=CC1)SC1=C(C=C(C=C1)Cl)Cl | C12H8Cl3NS
reactant | Methane sulphochloride | 4.56 ml | S(=O)(=O)(O)Cl.C
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloro-2-(2,4-dichlorophenylthio)-N-methyl-sulphonyl-aniline | ClC1C(=C(NC)C=CC1=S(=O)=O)SC1=C(C=C(C=C1)Cl)Cl | C13H10Cl3NO2S2
